US05817700
Step 2: (E)-1-(Methylthio)-4-[2-(3-fluorophenyl)ethenyl]benzene
Following the procedure describe in Method 3, but substituting4-methylthiostyrene and 1-bromo-3-fluorobenzene for 4-fluorostyrene and 4-bromothioanisole, the title product was obtained as an off-white solid.

reactant | 1-bromo-3-fluorobenzene | BrC1=CC(=CC=C1)F | C6H4BrF
reactant | 4-fluorostyrene | FC1=CC=C(C=C)C=C1 | C8H7F
reactant | 4-bromothioanisole | BrC1=CC=C(C=C1)SC | C7H7BrS
product | (E)-1-(Methylthio)-4-[2-(3-fluorophenyl)ethenyl]benzene | CSC1=CC=C(C=C1)\C=C\C1=CC(=CC=C1)F | C15H13FS
